US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (200 mg, 0.595 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (411 mg, 2.98 mmol) and 3-hydroxycarbazole (142 mg, 0.774 mmol) in DMA (2.0 ml) was stirred at 85° C. for 3 hours then allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated to give a solid residue. The residue was purified by silica column chromatography with gradient elution using dichloromethane with 0%, 2%, 4%, 10% methanolic ammonia to give 4-(9H-carbazol-3-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (212 mg, 74%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.595 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 2.98 mmol, 411 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxycarbazole | 0.774 mmol, 142 mg | OC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H9NO
solvent | DMA | 2.0 ml | CC(=O)N(C)C | C4H9NO
product | 4-(9H-carbazol-3-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 212 mg, 74% | C1=CC(=CC=2C3=CC=CC=C3NC12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C29H30N4O3
